US05238958
A solution of methyl α-(acetylamino)-3-hydroxy-4-(2-propenyl)benzeneacetate from Preparation 6 (1.5 g, 5.7 mmol) in CHCl3 (20 ml) and Et3N (1 ml) is treated with benzoyl chloride (1.0 g, 7.1 mmol). The resulting solution is stirred at room temperature for 4.5 hours. The reaction mixture is concentrated and the residue partitioned between EtOAc and saturated aqueous NaHCO3. The organic phases are combined, dried (MgSO4) and concentrated. The residue is purified by silica gel chromatography (50% EtOAc/Heptane). An oil of methyl α-(acetylamino)-3-[(phenylcarbonyl)oxy]-4-(2-propenyl)benzeneacetate is obtained (2.1 g, quantitative).

reactant | methyl α-(acetylamino)-3-hydroxy-4-(2-propenyl)benzeneacetate | C(C)(=O)NC(C(=O)OC)C1=CC(=C(C=C1)CC=C)O | C14H17NO4
reactant | benzoyl chloride | 7.1 mmol, 1.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Et3N | 1 ml | CCN(CC)CC | C6H15N
product | methyl α-(acetylamino)-3-[(phenylcarbonyl)oxy]-4-(2-propenyl)benzeneacetate | C(C)(=O)NC(C(=O)OC)C1=CC(=C(C=C1)CC=C)OC(=O)C1=CC=CC=C1 | C21H21NO5
